US06472435B1
Sodium hydride (60% dispersion in mineral oil; 0.265 g) was added to a stirred solution of 4-[bis(2-tert-butyldimethylsilyloxyethyl)amino]-N-(tert-butoxycarbonyl)aniline (3.15 g) in DMF (20 ml) which had been cooled to 0° C. The resultant mixture was stirred at ambient temperature for 1 hour. Allyl bromide (0.625 ml) was added and the mixture was stirred at ambient temperature for 12 hours. Water (5 ml) was added and the mixture was partitioned between diethyl ether and water. The organic phase was dried (MgSO4) and evaporated to give N-allyl-4-[bis(2-tert-butyldimethylsilyloxyethyl)amino]-N-(tert-butoxycarbonyl)aniline (3.5g); NMR Spectrum: (CDCl3) 0.0 (s, 12H), 0.81 (s, 9H), 0.82 (s, 9H), 1.4 (s, 9H), 3.43 (t, 4H), 3.71 (t, 4H), 4.11 (d, 2H), 5.07 (m, 2H), 5.87 (m, 1H), 6.58 (d, 2H), 6.93 (d, 2H).

reactant | Sodium hydride | 0.265 g | [H-].[Na+]
reactant | 4-[bis(2-tert-butyldimethylsilyloxyethyl)amino]-N-(tert-butoxycarbonyl)aniline | 3.15 g | [Si](C)(C)(C(C)(C)C)OCCN(C1=CC=C(NC(=O)OC(C)(C)C)C=C1)CCO[Si](C)(C)C(C)(C)C | C27H52N2O4Si2
reactant | Allyl bromide | 0.625 ml | C(C=C)Br | C3H5Br
reactant | Water | 5 ml | O | H2O
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | N-allyl-4-[bis(2-tert-butyldimethylsilyloxyethyl)amino]-N-(tert-butoxycarbonyl)aniline | 3.5g | C(C=C)N(C1=CC=C(C=C1)N(CCO[Si](C)(C)C(C)(C)C)CCO[Si](C)(C)C(C)(C)C)C(=O)OC(C)(C)C | C30H56N2O4Si2
